US08372981B2
N-(4-{6-Cyano-7-[(2R)-oxiran-2-yl]methoxyquinolin-4-yloxy}-2-chlorophenyl)-N′-methylurea
N-[2-Chloro-4-(6-cyano-7-hydroxyquinolin-4-yloxy)phenyl]-N′-methylurea (600 mg) was added to dimethylformamide (4 ml), and then p-toluenesulfonic acid (2R)-glycidyl ester (484 mg) and potassium carbonate (450 mg) were added thereto and the mixture was heated at 50° C. for 4 hours. Water was added to the reaction solution, extraction was performed with ethyl acetate, the organic layer was washed with water and saturated saline in that order and dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The obtained crude product was recrystallized with ethyl acetate to obtain the title compound (650 mg) as light yellow crystals.

reactant | N-[2-Chloro-4-(6-cyano-7-hydroxyquinolin-4-yloxy)phenyl]-N′-methylurea | 600 mg | ClC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)C#N)O)NC(=O)NC | C18H13ClN4O3
reactant | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 450 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-{6-Cyano-7-[(2R)-oxiran-2-yl]methoxyquinolin-4-yloxy}-2-chlorophenyl)-N′-methylurea | 650 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OC[C@@H]1OC1)OC1=CC(=C(C=C1)NC(=O)NC)Cl | C21H17ClN4O4
